US05371210
Bis-trimethylsilyluracil was prepared by combining 295 mg of uracil with 5 ml of hexamethyldisilazane, 11 mg of ammonium sulfate and 10 ml of 1,2-dichloroethane. The solution was heated to 110° C. for one hour to form a homogenous solution and the excess xylenes and hexamethyldisilazane were removed to form molten bis-trimethylsilyluracil. 200 mg of 2-deoxy-2,2-difluoro-D-ribofuranosyl-3,5-dibenzoyl-1-α-methanesulfonate were added to the molten bis-trimethylsilyluracil. The temperature of the reaction mixture was maintained at 150° C. for 2 hours. HPLC analysis confirmed completion of the reaction. The alpha to beta anomeric ratio of blocked nucleoside product was 1:1.8.

reactant | uracil | 295 mg | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | hexamethyldisilazane | 5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium sulfate | 11 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | bis-trimethylsilyluracil | C[Si](C)(C)C1=C(C(NC(N1)=O)=O)[Si](C)(C)C | C10H20N2O2Si2
